US07534547B2
Magnesium (1.06 g: 88.3 mmol) and 4-n-pentylbromobenzene (10.0 g: 44.01 mmol) were dissolved in 50 ml of dried tetrahydrofuran, and a Grignard reagent was prepared from the mixture. To the Grignard reagent was added 11.6 g (44.1 mmol) of 4-(benzyloxy)bromobenzene synthesized in the step (i). The reaction system was purged with argon. To the reaction system was added 600 mg of dichloro(1,4-diphenylphosphinobutane)palladium (II) [Pd(dppb)Cl2], and the reaction was conducted for 24 hours. The reaction mixture was poured into an iced water, and the resultant mixture was acidified by adding hydrochloric acid. The resultant solid was collected by filtration, washed with water, dried, and recrystallized from a mixed solvent of hexane/toluene to give 9.0 g (27.3 mmol) of 4-n-pentyl-4′-benzyloxybiphenyl.

reactant | Magnesium | 88.3 mmol, 1.06 g | [Mg] | Mg
reactant | 4-n-pentylbromobenzene | 44.01 mmol, 10.0 g | C(CCCC)C1=CC=C(C=C1)Br | C11H15Br
reactant | 4-(benzyloxy)bromobenzene | 44.1 mmol, 11.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-n-pentyl-4′-benzyloxybiphenyl | 27.3 mmol, 9.0 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H26O
